US05679689
E. Methyl 1-methoxycarbonylamino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate (methyl 3a-methoxyearbonylamino-1,2,3,7a-tetrahydro-isoindole-2-carboxylate)
20.9 g of crude 8-azabicyclo[4.3.0]nona-2,4-diene-1,8-dicarboxylic acid 8-methyl ester are heated under reflux overnight with 9.6 g (92 mmol) of triethylamine, 26 g (107 mmol) of diphenylphosphoryl azide and 5 g of methanol in 300 ml of absolute toluene. The solution is washed with water, dried over MgSO4, and concentrated. The product is processed further in crude form. Yield: 20 g.

reactant | 8-azabicyclo[4.3.0]nona-2,4-diene-1,8-dicarboxylic acid 8-methyl ester | 20.9 g | COC(=O)N1CC2C=CC=CC2(C1)C(=O)O | C11H13NO4
reactant | triethylamine | 92 mmol, 9.6 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 107 mmol, 26 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methanol | 5 g | CO | CH4O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 1-methoxycarbonylamino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate | COC(=O)NC12C=CC=CC2CN(C1)C(=O)OC | C12H16N2O4
